2150-12-13 08:14:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
   - rpt sputum cx 12.27: 3+ GNRs, 1+ GPRs, 1+ GN diploccoci
   - requires PEG placement: surgery consulted, declined (pt w/ multiple
   co-morbidities, would avoid general anesthesia, also states that
   previous PEG would make doing percutaneous PEG easier, stomach up
   against the abdominal wall.) recommended GI consult for bedside
   percutaneous placement (GI can be consulted on Sunday or Monday).
   - ID recs: continue tobra, trough check in AM prior to HD, goals < 1
   - renal recs: consider giving blood/albumin at next HD session
   - CXR appears volume overloaded
   - getting HD in AM
   - changed midodrine to 15 [**Hospital1 **] (renal dosage per pharmacy)
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2150-12-10**] 08:44 AM
   Meropenem - [**2150-12-12**] 08:02 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2150-12-12**] 02:00 PM
   Fentanyl - [**2150-12-13**] 04:49 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited [**1-17**] trach but pt denies CP. C/o SOB
   Flowsheet Data as of  [**2150-12-13**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 86 (77 - 95) bpm
   BP: 86/32(43) {66/27(38) - 97/56(78)} mmHg
   RR: 16 (11 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  1,398 mL
                                                                    607 mL
   PO:
             TF:
                                                                    458 mL
                                                                    326 mL
   IVF:
                                                                    400 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,398 mL
                                                                    607 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: 1+, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, Tone: Normal
   Labs / Radiology
   233 K/uL
   7.5 g/dL
   85 mg/dL
   3.2 mg/dL
   18 mEq/L
   3.3 mEq/L
   40 mg/dL
   103 mEq/L
   140 mEq/L
   24.6 %
   24.5 K/uL
        [image002.jpg]
                            [**2150-12-8**]  06:01 PM
                            [**2150-12-9**]  03:49 AM
                            [**2150-12-10**]  04:14 AM
                            [**2150-12-12**]  06:21 AM
                            [**2150-12-13**]  04:01 AM
   WBC
   22.3
   22.0
   16.9
   24.5
   Hct
   24.2
   24.4
   23.1
   24.6
   Plt
   187
   260
   216
   233
   Cr
   2.0
   2.5
   3.0
   2.8
   3.2
   TropT
   0.38
   0.39
   Glucose
   103
   83
   104
   70
   85
   Other labs: PT / PTT / INR:24.0/50.8/2.3, CK / CKMB /
   Troponin-T:68/6/0.39, Lactic Acid:1.2 mmol/L, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now is transferred to the [**Hospital Unit Name 44**] for
   recurrent hypotension.
   .
   # Hypotension - Recurrent problem for pt promting multiple floor to
   [**Hospital Unit Name 44**] transfers. Has been documented to have SBPs measured in 70-80s
   using cuff on R arm during prior [**Hospital Unit Name 44**] admit without signs of end organ
   compromise. Has also been previously demonstrated to have [**Hospital Unit Name **] very
   sensitive to use of narcotics, which pt does require for pain [**1-17**] stage
   IV sacral decub ulcer. Worsening SBPs on floor are also concerning for
   septic physiology given known sources of infection (large decub ulcer
   and Acinetobacter baumanii and Pseudomonas PNA). All cxs since [**11-29**]
   have been negative with exception of yeast in urine cx on [**12-6**]. WBC
   also trending downwards and has had no fevers in > 72 hrs. PE and
   adrenal insufficiency remain on differential; however had [**Last Name (un) 45**] stim
   during most recent [**Hospital Unit Name 44**] course that was unrevealing. Doubt cardiac
   ischemia as 1 set of CEs thus far unrevealing, EKG unrevealing. Lastly,
   prior transfer to ICU for hypotension was also post HD with UF removal.
   - Continue to bolus IVFs to bring SBPs back to mid 70-80s (prior
   baseline) or for symptomatic hypotension. Will closely monitor pt's
   mental status. Anuric at baseline to unable to monitor UOP.
   - f/u bld cxs.
   - Consider repeating sputum cx if worsening leukocytosis.
   - Continue broad spectrum abxs with tobramycin, meropenem, and po
   vancomycin.
   - Will need tobramycin troughs post HD.
   - Appreciate ID recs.
   - Complete ROMI with 2nd set of CEs with am labs.
   - Discuss with renal about possibly being less aggressive with UF
   removal at HD.
   - Consider restarting midodrine.
   - Will need to be cautious with narcotic use.
   - Consider checking TTE, V/Q scan if hypotension persists without clear
   etiology.
   - Unfortunately, pt's hypotension has become a recurrent problem. It
   appears that at baseline, measured [**Hospital Unit Name **] by cuff are lower than normal,
   with PVD possibly contributing. He also has an infected stage IV decub
   ulcer, for which he and his family have declined a diverting colostomy.
   Thus, underlying infection and septic physiology will be an unresolved
   matter. Will readdress goals of care with family and pt again in am.
   .
   # Leukocytosis - WBC 16.2, improving from prior peak at 29.2. No longer
   with low grade fevers. Although pt does have 2 active sources of
   infection, they appear to be clinically improving with broad abx
   coverage.
   - d/c'd daptomycin earlier today given no clear gram positive source on
   cx data.
   - Continue IV meropenem, tobramycin dosed at HD, and po vancomycin for
   possible c. diff.
   - f/u bld cxs.
   - Monitor PICC site, already has bld cxs pending from [**12-11**] off PICC.
   - Appreciate ID following, will continue to follow recs.
   - Continue to monitor WBC count, fever curve.
   .
   # Stage IV coccygeal ulcer - Plastic surgery and ID following.
   Continuously contaminated with fecal matter and plan was for colostomy
   until pt and family declined.
   - Continue wound care.
   - Continue broad spectrum abxs as above.
   - f/u plastic surgery recs. Prior recs appreciated.
   - Debridements per plastics.
   - Pain control with lidocaine patches, fentanyl patch.
   - Caution with narcotic pre-medication prior to dressing changes.
   .
   # Chronic Respiratory Failure: Known hx of hypercarbic/hypoxic
   respiratory failure now s/p trachostomy from early [**2149**]. Prior BAL from
   [**8-24**] without endobronchial lesions or tracheobronchomalacia. Pt has had
   h/o MRSA, pseudomonal, actinobacter, serratia PNA. Most recent sputum
   cxs with resistant Acetinobacter, psueudomonas.
   - broad spectrum abx as above.
   - Continue trach mask O2 supplementation for now.
   - Check ABG if pt becomes more somnolent.
   .
   # ESRD: On HD, [**1-17**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue renagel.
   - f/u bld cxs.
   - Continue to monitor HD line site exam.
   - Notify renal about possibly removing less UF during next HD session
   as above.
   - Dosing tobramycin at HD. Needs trough levels post-HD.
   - f/u renal recs.
   .
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.
   -Continue statin, off BB until [**Month/Year (2) **] tolerate.
   -Obtaining 2nd set of CEs as above.
   .
   # Atrial Fibrillation: Pt with therapeutic INR. Coumadin again held
   today for possibility of feeding tube placement.
   - Holding coumadin for now.
   - Off nodal agents until [**Month/Year (2) **] can better tolerate.
   .
   # Type II DM: Continue ISS and Lantus.
   .
   # R BKA/PVD:
   - Continue current wound care
   - Vascular surgery previously following, have since signed off.
   .
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating
   lymphoid tissue with quiescent germinal centers.
   - Continued outpatient follow up
   .
   # FEN: NPO, has NGT in place for meds and tube feeds. Plan on floor was
   for repeat S&S eval, possibility of PEG placement.
   - S&S eval when MS [**First Name (Titles) **] [**Last Name (Titles) **] improve.
   - Will need to discuss possibility of PEG further with pt and family.
   - replete lytes prn
   .
   # Access: R.HD Cath, R PICC
   .
   # PPx: hep sq, bowel regimen
   .
   # Code: Full Code
   .
   # Dispo: [**Hospital Unit Name 44**]
   .
   # Comm: [**Name (NI) 53**] and son
   ICU [**Name (NI) **]
   Nutrition:
   [**Name (NI) 140**] Renal (Full) - [**2150-12-13**] 01:03 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-12**] 06:13 AM
   Dialysis Catheter - [**2150-12-12**] 07:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2150-12-14 08:30:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
 FEVER - 974.0
F - [**2150-12-13**] 12:11 PM
   -Updated family while they were visiting. Ordered for PEG tube
   placement in IR tomorrow. stop TF after mdnt
   -ID following sensitivities on sputum cx for highly resistant
   acinetobacter- in past [**Last Name (un) **] only to Zosyn. Added on [**Last Name (un) **] to meropenem.
   Pt with true PCN allergy and very few options to treat
   -Dialyzed- took off 2.5 L
   -Cultures drawn from HD line pending
   -Tobra level 3.1- no need to redose
   -increased Midodrine to TID
   -Gave 1u PRBCs with HD
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2150-12-13**] 08:38 PM
   Vancomycin - [**2150-12-14**] 06:45 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-12-13**] 10:30 AM
   Dextrose 50% - [**2150-12-14**] 06:45 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited [**1-17**] trach but pt c/o pain in buttocks
   Flowsheet Data as of  [**2150-12-14**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 523.3
C (974
   Tcurrent: 37.1
C (98.7
   HR: 83 (72 - 102) bpm
   BP: 91/39(49) {66/30(39) - 152/137(77)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  2,431 mL
                                                                    185 mL
   PO:
             TF:
                                                                    961 mL
                                                                     76 mL
   IVF:
                                                                    440 mL
                                                                     84 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  2,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -69 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Trace, Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   232 K/uL
   8.3 g/dL
   74 mg/dL
   1.9 mg/dL
   24 mEq/L
   3.3 mEq/L
   22 mg/dL
   110 mEq/L
   146 mEq/L
   25.7 %
   21.3 K/uL
        [image002.jpg]
                            [**2150-12-8**]  06:01 PM
                            [**2150-12-9**]  03:49 AM
                            [**2150-12-10**]  04:14 AM
                            [**2150-12-12**]  06:21 AM
                            [**2150-12-13**]  04:01 AM
                            [**2150-12-14**]  03:04 AM
   WBC
   22.3
   22.0
   16.9
   24.5
   21.3
   Hct
   24.2
   24.4
   23.1
   24.6
   25.7
   Plt
   187
   260
   216
   233
   232
   Cr
   2.0
   2.5
   3.0
   2.8
   3.2
   1.9
   TropT
   0.38
   0.39
   Glucose
   103
   83
   104
   70
   85
   74
   Other labs: PT / PTT / INR:24.6/64.0/2.4, CK / CKMB /
   Troponin-T:68/6/0.39, Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 IMPAIRED SKIN INTEGRITY
   75 yo M with chronic respiratory failure with trach, COPD, ESRD, DM 2,
   infected stage IV coccygeal ulcer, and multiple prior VAPs/HAPs with
   complicated hospital course who now is transferred to the [**Hospital Unit Name 44**] for
   recurrent hypotension.
   .
   # Hypotension - Recurrent problem for pt prompting multiple floor to
   [**Hospital Unit Name 44**] transfers. Has been documented to have SBPs measured in 70-80s
   using cuff on R arm during prior [**Hospital Unit Name 44**] admit without signs of end organ
   compromise. Has also been previously demonstrated to have BPs very
   sensitive to use of narcotics, which pt does require for pain [**1-17**] stage
   IV sacral decub ulcer. Concern for septic physiology given known
   sources of infection (large decub ulcer and Acinetobacter baumanii and
   Pseudomonas PNA). All cxs since [**11-29**] have been negative with exception
   of yeast in urine cx on [**12-6**]. Also sputum cx [**12-12**] now with GNR, GPR,
   GNC.  WBC stable for last several days has had no fevers in > 72 hrs.
   Lastly, hypotension also likely related to HD.  CE neg x2
   - f/u bld, sputum cxs.
   - Per ID- will keep on current abx- meropenem, tobra, PO vanc for now
   until [**Last Name (un) **] on sputum cx come back
   - Continue broad spectrum abxs with tobramycin, meropenem, and po
   vancomycin.
   - Tobra level pending this am
   - Appreciate renal rec- tentatively taking off 2L today at HD
   - Cont midodrine TID
   - Will need to be cautious with narcotic use.
   - Consider checking TTE, V/Q scan if hypotension persists without clear
   etiology.
   .
   # Leukocytosis
 WBC rose again today to 24. No longer with low grade
   fevers for >4 D. \
   - Continue IV meropenem, tobramycin dosed at HD, and po vancomycin for
   possible c. diff.
   - f/u bld, sputum cxs.
   - Monitor PICC site, already has bld cxs pending from [**12-11**] off PICC.
   Also, Cx pending from HD line.
   - Appreciate ID following, will continue to follow recs.
   - Continue to monitor WBC count, fever curve.
   .
   # Stage IV coccygeal ulcer - Plastic surgery and ID following.
   Continuously contaminated with fecal matter and plan was for colostomy
   until pt and family declined.
   - Continue wound care.
   - Continue broad spectrum abxs as above.
   - f/u plastic surgery recs. Prior recs appreciated.
   - Debridements per plastics.
   - Pain control with lidocaine patches, fentanyl patch.
   - Caution with narcotic pre-medication prior to dressing changes.
   .
   # Chronic Respiratory Failure: Known hx of hypercarbic/hypoxic
   respiratory failure now s/p trachostomy from early [**2149**]. Prior BAL from
   [**8-24**] without endobronchial lesions or tracheobronchomalacia. Pt has had
   h/o MRSA, pseudomonal, actinobacter, serratia PNA. Most recent sputum
   cxs with resistant Acetinobacter, psueudomonas.
   - broad spectrum abx as above.
   - Continue trach mask O2 supplementation for now.
   - Check ABG if pt becomes more somnolent.
   .
   # ESRD: On HD, [**1-17**] to diabetic nephropathy. Although HD line has
   surrounding erythema, per renal, has had this stable appearance with
   negative blood cxs.
   - Continue renagel.
   - f/u bld cxs from HD line and PICC.
   - Continue to monitor HD line site exam.
   - If continues with hypotension s/p HD, will need to discuss less
   aggressive fluid removal with renal.
   - Dosing tobramycin at HD. Needs trough levels with HD.
   - f/u renal recs.
   .
   # CAD: TTE [**3-24**] (EF 50% to 55%) with dilated LV cavity. No signs of
   active cardiac ischemia on labs or EKG. Elevated troponin in setting of
   renal failure, and stable from prior checks.  CE neg x2 [**12-1**] and [**12-12**]
   -Continue statin, off BB until BPs tolerate.
   .
   # Atrial Fibrillation: Coumadin again held today for possibility of
   feeding tube placement.
   - Holding coumadin for now.- recheck am coags
   - Off nodal agents until BPs can better tolerate.
   .
   # Type II DM: Continue ISS and Lantus.
   .
   # R BKA/PVD:
   - Continue current wound care
   - Vascular surgery previously following, have since signed off.
   .
   # Plasma Cell Dyscrasia: Known IgA kappa on electrophoresis. Bone
   Marrow with 5-10% plasma cells. ?MGUS. Known retroperitoneal mass s/p
   non-diagnostic FNA and needle core biopsy indicating
   lymphoid tissue with quiescent germinal centers.
   - Continued outpatient follow up
   .
   # FEN: NPO, has NGT in place for meds and tube feeds.
   -Request for IR PEG tube placement tomorrow
   .
   # Access: R.HD Cath, R PICC
   .
   # PPx: hep sq, bowel regimen
   .
   # Code: Full Code
   .
   # Dispo: [**Hospital Unit Name 44**]
   .
   # Comm: [**Name (NI) 53**] and son
   ICU [**Name (NI) **]
   Nutrition: TF off for possible PEG placement
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2150-12-12**] 06:13 AM
   Dialysis Catheter - [**2150-12-12**] 07:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU